US09193744B2
Dess-Martin periodinane (0.017 g, 0.039 mmol) was added to a solution of (3R,4aR,7 S,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,7-diol (61, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0079 g, 0.017 mmol), (3R,4aR,7R,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,7-diol (62, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0061 g, 0.013 mmol), and DCM (0.300 mL) under a nitrogen atmosphere. After about 90 min, sat. aq. NaHCO3 (2 mL) and water (1 mL) were added. The mixture was extracted with EtOAc (2×5 mL). The combined organics were dried over Na2SO4, filtered, and concentrated. The residue was purified on silica gel (4 g) using a gradient of 0-25% EtOAc in heptane. The fractions containing product were combined and concentrated under reduced pressure to afford an ivory foam. The residue was dissolved in MeCN, treated with water, and concentrated under reduced pressure to remove MeCN. The mixture was frozen then lyophilized to afford (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,2,3,4,4a,5,6,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-7(9H)-one (63, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.0124 g, 89% yield) of an ivory solid. LC/MS, method 2, Rt=2.54 min, MS m/z 461 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.41-8.38 (m, 1H), 7.93 (s, 1H), 7.84-7.75 (m, 2H), 7.54 (s, 1H), 7.48-7.39 (m, 2H), 5.94 (s, 1H), 2.86-2.74 (m, 1H), 2.70-2.59 (m, 1H), 2.26-2.14 (m, 1H), 2.09-1.84 (m, 5H), 1.81-1.59 (m, 4H), 1.54-1.40 (m, 1H), 0.37 (t, J=7.2 Hz, 3H).

reactant | Dess-Martin periodinane | 0.039 mmol, 0.017 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (3R,4aR,7 S,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,7-diol | C(C)[C@@]12[C@H](CC[C@@H](C=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)O)C[C@@](CC2)(O)C(F)(F)F | C25H26F4N2O2
reactant | (3R,4aR,7R,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,7-diol | C(C)[C@@]12[C@H](CC[C@H](C=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)O)C[C@@](CC2)(O)C(F)(F)F | C25H26F4N2O2
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | MeCN | CC#N | C2H3N
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
solvent | DCM | 0.300 mL | C(Cl)Cl | CH2Cl2
product | (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,2,3,4,4a,5,6,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-7(9H)-one | C(C)[C@@]12[C@H](CCC(C=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)=O)C[C@](CC2)(C(F)(F)F)O | C25H24F4N2O2
